Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
___ year old right handed man with no significant PMH reports
that around 5 weeks ago he presented rash on the back first and 
a
few days later on the elbows and was diagnosed with Lyme 
disease.
He underwent a course of antibiotics for 3 weeks (he could not
recall the name). One week later he started to have daily
headaches, frontal, throbbing, insidious, with no precipitating
factor, for which he would take tylenol. 

Last ___ at around 8:30pm his wife noticed that he
was acting strange, he could difficulty to use the faucet (he 
had
no weakness, no trembling, no gait disorder, but was clumsity to
use the faucet) and his speech was labored. She also noticed 
that
his face was looking strange (can not tell which side) but when
his smiled one side would not move and he would use the R hand
less often. He went to bed and woke up around midnight to drink
water, his wife noticed that he was appeared not to know how to
drink it and decided to bring him to ER.

In ER, exam was notable for speech that was slow and halting,
answers in one to two word phrases patient was found in CT/CTA: 
7
x 9mm aneurysm at the junction of the right ICA and MCA. No
hemorrhage and was admitted to the Neurosurgical service.

Wife reports that when he woke up yesterday (___)
he was back to himself, with normal speech and able to perform
activities.

ROS: Patient sporadically has tingling in fingers
The patient denied visual difficulty, hearing changes, ,  
swallowing, vertigo, unsteady gait, sensory loss,
weakness, or falls.

The patient denied fever, wt loss, appetite changes, cp,
palpitations, DOE, sob, cough, wheeze, nausea, vomiting,
diarrhea, constipation, abd pain, fecal incont, dysuria,
nocturia, urinary incontinence, muscle or joint pain, hot/cold
intolerance, polyuria, polydipsia, easy bruising, depression,
anxiety, stress, or psychotic sx.

 
Past Medical History:
Treated 5 weeks ago for Lyme disease during three weeks . 

 
Social History:
___
Family History:
 Two uncles had brain aneurysm. No hx of stroke in
family
 
Physical Exam:
T- 99.2 BP132/89- RR-18   96O2Sat
Gen: Lying in bed, NAD
HEENT: NC/AT, moist oral mucosa   
Neck: No tenderness to palpation, normal ROM, supple, no carotid
or vertebral bruit
Back: No point tenderness or erythema
CV: RRR, Nl S1 and S2, no murmurs/gallops/rubs 
Lung: Clear to auscultation bilaterally 
aBd: +BS soft, nontender 
ext: no edema

Neurologic examination: 
Mental status: Awake and alert, cooperative with exam, normal 
affect.  Oriented to person, place, and date.  Attentive, says
___ backwards.  Speech is fluent with normal comprehension and
repetition; naming intact. No dysarthria. Reading and writing
intact.  Registers ___, recalls ___ in 5 minutes.  No right left
confusion. No evidence of apraxia or neglect.
 
Cranial Nerves:  
Pupils equally round and reactive to light, 4 to 2 mm
bilaterally. Visual fields are full to confrontation. 
Extraocular
movements intact bilaterally, no nystagmus. Sensation intact
V1-V3. VII: L NLFF.  Hearing intact to finger rub bilaterally. 
Palate elevation symmetrical.  Sternocleidomastoid and trapezius
normal bilaterally. Tongue midline, movements intact
 
Motor: 
Normal bulk bilaterally. Tone normal. No observed myoclonus or
tremor
No pronator drift
  Del Tri Bi  WF WE FE FF  IP  H  Q DF PF TE TF
R  ___  ___  ___  ___  5  5
L  ___  ___  ___  ___  5  5  

Sensation: Intact to light touch, pinprick, vibration and
proprioception throughout. No extinction to DSS

Reflexes: 
+2 and symmetric throughout.  
Toes downgoing bilaterally 
 
Coordination: finger-nose-finger normal, heel to shin normal,
RAMs normal. 
 
Gait: Narrow based, steady.

Romberg: Negative

 
Pertinent Results:
___ 05:30AM BLOOD WBC-11.0 RBC-4.31* Hgb-14.1 Hct-39.5* 
MCV-92 MCH-32.7* MCHC-35.7* RDW-13.0 Plt ___
___ 05:30AM BLOOD ___ PTT-26.4 ___
___ 06:35AM BLOOD Glucose-108* UreaN-14 Creat-0.7 Na-141 
K-3.8 Cl-106 HCO3-27 AnGap-12
___ 06:35AM BLOOD ALT-26 AST-17 LD(LDH)-186 AlkPhos-71 
TotBili-0.4
___ 07:40AM BLOOD Calcium-9.1 Phos-1.6* Mg-2.3
___ 06:35AM BLOOD Albumin-4.2 Calcium-9.5 Phos-3.5 Mg-2.2
___ 06:25AM BLOOD %HbA1c-6.1*
___ 06:25AM BLOOD Triglyc-79 HDL-58 CHOL/HD-2.8 LDLcalc-88

CTA: Fusiform dilatation at the bifurcation of right internal 
carotid 
artery with extension to the anterior cerebral and middle 
cerebral arteries. 
No focal saccular aneurysm is seen. No vascular occlusion or 
stenosis seen. 

Head CT demonstrates no evidence of hemorrhage. 

MRA/ MRI: 1. Fusiform aneurysm involving the right carotid 
terminus, measuring up to 13 
x 7.5 mm and extending into the M1 and A1 segments of the middle 
and anterior 
cerebral arteries, respectively; this corresponds to the 
findings on 
yesterday's CTA. 
2. No evidence of acute or chronic subarachnoid hemorrhage. 
3. Relatively mild chronic microvascular infarction in 
bihemispheric 
subcortical and periventricular white matter. 
4. Chronic-appearing inflammatory changes in the paranasal 
sinuses, with 
possible small left frontal mucocele 
Cxr: no evidence of TB (my preliminary read)
CSF: 
no malignant cells. 
                        WBC   RBC Polys Lymphs Monos Macroph 
___ 06:00PM     ___ 05:18PM     297    40    0    98     0      2 
 
Total Prot Glucose LD(LDH) 
   183     79      19 

 
Brief Hospital Course:
Mr ___ is ___ year old right handed man with no significant 
PMH reports
that around 5 weeks ago he presented rash on the back first and 
a
few days later on the elbows and was diagnosed with Lyme's 
disease. He received three weeks of therapy with doxicycline. A 
week ago he presented with an altered mental status event and a 
complaint of frequent headaches. 
His CSF evidenced an aseptic meningitis. Serologic studies are 
in progress. given the high likelihood that he has CNS Lyme, he 
was started on Ceftriaxone on ___ and needs to be on 
therapy for 3 weeks. In addition, an MRI/ MRA showed an aneurism 
7 * 13 mm at the RIGHT carotid terminus. 

We discussed the case with the infectious disease team. They 
recommended additional tests to determine the cause of your 
condition in the event that Lyme's disease were not the final 
diagnosis (LCMV, RPR, VDRL, Enterovirus, regular viral panel, 
leptospirosis). I also taked to Dr. ___ and agreed that 
he will  place a PPD, get blood work (a CBC and a chemistry) 
once a week. 

 
 
Medications on Admission:
None
 
Discharge Medications:
Ceftriaxone 2 g iv qd for a total of 19 more days. 
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Aseptic meningitis

 
Discharge Condition:
The exam is completely normal at discharge. 

 
Discharge Instructions:
You have been diagnosed with aseptic meningitis. This is an 
infection of the meninges (in your brain).
 
Followup Instructions:
___